US07666883B2
Experimental Procedure for the Synthesis of 2-[(2-Chloro-5-methylpyridine-3-yl)(hydroxy)methyl]acrylonitrile (Ia)
To a mixture of 2-Chloro-5-methylpyridinecarboxaldehyde (10 mmol, 1.55 g) and DABCO (10 mmol. 1.12 g) was added an acrylonitrile (60 mmol.) under neat conditions [solvent free conditions] at room temperature and the reaction progress was monitored by TLC. Upon completion of the reaction mixture (˜4-5 min.) was diluted with diethyl ether (300 mL) and washed with water 3×50 mL. The organic layer was dried over Na2SO4 and concentrated, the residue was subjected to column chromatography over silica gel, eluting with ethyl acetate and hexane (2:8, v/v) to give the desired product in almost quantitative (2.05 g).

reactant | 2-Chloro-5-methylpyridinecarboxaldehyde | 10 mmol, 1.55 g | ClC1(NC=C(C=C1)C)C=O | C7H8ClNO
reactant | DABCO | 10 mmol, 1.12 g | C1CN2CCN1CC2 | C6H12N2
reactant | acrylonitrile | 60 mmol | C(C=C)#N | C3H3N
reactant | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | 2-[(2-Chloro-5-methylpyridine-3-yl)(hydroxy)methyl]acrylonitrile | ClC1=NC=C(C=C1C(C(C#N)=C)O)C | C10H9ClN2O
